US07199147B2
Methanesulfonyl chloride (0.10 ml, 1.29 mmol) was added to a solution of N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine (37 mg, 0.100 mmol) in pyridine (1 ml), and the resulting mixture was stirred at room temperature for 3 days. The reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution, followed by extraction with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a preparative thin-layer chromatography (200×200×0.5 mm, 2 plates, eluent: chloroform/methanol=20/1) to obtain N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-N-(1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)-methanesulfonamide (20 mg, 44%).

reactant | Methanesulfonyl chloride | 1.29 mmol, 0.10 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine | 0.100 mmol, 37 mg | C(CC)N1C2CC(CC1CC2)NC=2C=C1C=NN(C1=CC2)C2OCCCC2 | C22H32N4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-(8-propyl-8-azabicyclo[3.2.1]oct-3-yl)-N-(1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)-methanesulfonamide | 20 mg, 44% | C(CC)N1C2CC(CC1CC2)N(S(=O)(=O)C)C=2C=C1C=NN(C1=CC2)C2OCCCC2 | C23H34N4O3S
